US08536165B2
C. 2-(3-iodophenyl)-5-methyl-1,3,4-oxadiazole
In a schlenck tube, a mixture of 3-iodobenzohydrazide (510 mg, 1.95 mmol) and 1,1,1-triethoxyethane (1.14 ml, 6.23 mmol) in acetic acid (15 ml) was heated at 150° C. for 3 h. The solvent was evaporated and the crude redissolved in ethyl acetate and washed with 4% solution of NaHCO3, water and brine. The organic layer was dried, filtered and concentrated under vacuum to give the title compound as a white solid (92% yield).

reactant | 3-iodobenzohydrazide | 1.95 mmol, 510 mg | IC=1C=C(C(=O)NN)C=CC1 | C7H7IN2O
reactant | 1,1,1-triethoxyethane | 6.23 mmol, 1.14 ml | C(C)OC(C)(OCC)OCC | C8H18O3
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-(3-iodophenyl)-5-methyl-1,3,4-oxadiazole | 92% yield | IC=1C=C(C=CC1)C=1OC(=NN1)C | C9H7IN2O
